US08304577B2
To a solution of (1R)-1-(4-(2-methylpentyloxy)phenyl)-2-(4-methylpiperazin-1-yl)ethanamine.3TFA (79 mg, 0.119 mmol) in dichloromethane (2 mL) at room temperature was added N,N-diisopropylethylamine (0.125 mL, 0.717 mmol) followed by HATU (68.1 mg, 0.179 mmol). The mixture was stirred at room temperature under N2 overnight. The reaction mixture was transferred to a separatory funnel containing saturated aqueous NaHCO3 solution (50 mL). The aqueous layer was extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with brine (50 mL), dried over MgSO4, filtered and concentrated. The product was purified by reverse phase HPLC (acetonitrile/water with 0.1% TFA). The organic solvent was removed on the rotovapor and the aqueous mixture was frozen and placed on the lyophilizer to afford (2S)-N-(1-(4-(2-methylpentyloxy)phenyl)-2-(4-methylpiperazin-1-yl)ethyl)-2-phenylpropanamide (41 mg, 61% yield) as a colorless amorphous solid. LC/MS and HPLC showed that the product is a 1:1 mixture of diastereomers. The total number of protons in the 1H NMR is doubled to account for presence of both diasteriomers: 1H NMR (400 MHz, DMSO-d6) δ 8.29 (t, J=8.4 Hz, 2H), 7.31-7.41 (m, 4H), 7.22-7.29 (m, 7H), 7.16-7.21 (m, 1H), 7.11 (d, 2H), 6.89 (d, J=8.6 Hz, 2H), 6.78 (d, 2H), 4.88-4.99 (m, 2H), 3.62-3.85 (m, 6H), 3.37 (br. s., 4H), 3.20 (br. s., 4H), 2.98 (br. s., 8H), 2.77 (s, 3H), 2.66 (s, 3H), 2.17-2.44 (m, 4H), 1.85 (td, J=13.0, 6.5 Hz, 2H), 1.36 (d, J=7.1 Hz, 3H), 1.29 (d, J=6.8 Hz, 3H), 1.23-1.46 (m, 6H), 1.11-1.22 (m, 2H), 0.96 (d, J=6.8 Hz, 3H), 0.93 (d, J=6.8 Hz, 3H), 0.89 (t, J=6.8 Hz, 3H), 0.87 (t, J=6.5 Hz, 3H); LRMS (ESI) m/e 452.3 [(M+H)+, calcd for C28H42N3O2 452.3].

reactant | (1R)-1-(4-(2-methylpentyloxy)phenyl)-2-(4-methylpiperazin-1-yl)ethanamine | CC(COC1=CC=C(C=C1)[C@H](CN1CCN(CC1)C)N)CCC | C19H33N3O
reactant | N,N-diisopropylethylamine | 0.717 mmol, 0.125 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 0.179 mmol, 68.1 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (2S)-N-(1-(4-(2-methylpentyloxy)phenyl)-2-(4-methylpiperazin-1-yl)ethyl)-2-phenylpropanamide | 41 mg, 61% yield | CC(COC1=CC=C(C=C1)C(CN1CCN(CC1)C)NC([C@@H](C)C1=CC=CC=C1)=O)CCC | C28H41N3O2
